US05084459
A mixture of 0.61 g of 1,3-dimethyl-4-methylthio-5-nitro-1,2,3,6-tetrahydropyridylmethylamine, 0.357 g of 3 pyridylmethylamine and 6 ml of acetonitrile was stirred at room temperature for 5 hours. The reaction mixture was then concentrated and purified by column chromatography (eluent: dichloromethane-methanol (10:1)) to give 0.33 g of 1,3-dimethyl-4-(pyridylmethylamino)-5 nitro-1,2,3,6-tetrahydropyrimidine (Compound No. 31) as a syrup.

reactant | 1,3-dimethyl-4-methylthio-5-nitro-1,2,3,6-tetrahydropyridylmethylamine | 0.61 g | CN1C(C(C(=C(C1)[N+](=O)[O-])SC)C)CN | C9H17N3O2S
reactant | pyridylmethylamine | N1=C(C=CC=C1)CN | C6H8N2
reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 1,3-dimethyl-4-(pyridylmethylamino)-5 nitro-1,2,3,6-tetrahydropyrimidine | 0.33 g | CN1CN(C(=C(C1)[N+](=O)[O-])NCC1=NC=CC=C1)C | C12H17N5O2
